US05763458
1-(4-Amino-5-chloro-2-methoxyphenyl)-3-(pyridin-4-yl)-2-propen-1-one (0.5 g, 1.7 mmol), prepared as in Example 6, Step (b), was dissolved in acetic acid (25 mL) and the solution was hydrogenated over 5% rhodium-alumina catalyst (0.2 g) at 50 psi for 24 hours. The solution was filtered, diluted with water, basified with ammonium hydroxide, and extracted three times with methylene chloride. The combined extracts were dried over sodium sulfate. Evaporation gave 1-(4-amino-5-chloro-2-methoxyphenyl)-3-(piperidin-4-yl)propan-1-one (0.35 g, 1.2 mmol).

reactant | 1-(4-Amino-5-chloro-2-methoxyphenyl)-3-(pyridin-4-yl)-2-propen-1-one | 1.7 mmol, 0.5 g | NC1=CC(=C(C=C1Cl)C(C=CC1=CC=NC=C1)=O)OC | C15H13ClN2O2
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | 1-(4-amino-5-chloro-2-methoxyphenyl)-3-(piperidin-4-yl)propan-1-one | 1.2 mmol, 0.35 g | NC1=CC(=C(C=C1Cl)C(CCC1CCNCC1)=O)OC | C15H21ClN2O2
